US06900227B2
Preparation of 4,4′-dibromo-2,2′-difluoro-benzophenone
Tetrakis(triphenylphosphine)palladium (0.15 g, 0.13 mmol) was dissolved in anisole (15 mL). 1-Bromo-3-fluoro-4-iodobenzene (2.0 g, 6.6 mmol), 4-bromo-2-fluorobenzeneboronic acid (1.45 g, 6.6 mmol) and potassium carbonate (2.7 g, 19.9 mmol) together with another 15 mL anisole were added. The above mixture was stirred for 16 h at 80° C. under 10 bar carbon monoxide pressure. The reaction mixture was allowed to cool, added to a toluene/water mixture (120 mL, 1:1) the phases were separated and the water phase was extracted twice with toluene. Organic phases were pooled, washed with brine and the solvent was evaporated. Crystallization from hexane afforded the title compound as white crystals (1.17 g, 47%).

reactant | 1-Bromo-3-fluoro-4-iodobenzene | 6.6 mmol, 2.0 g | BrC1=CC(=C(C=C1)I)F | C6H3BrFI
reactant | 4-bromo-2-fluorobenzeneboronic acid | 6.6 mmol, 1.45 g | BrC1=CC(=C(C=C1)B(O)O)F | C6H5BBrFO2
reactant | potassium carbonate | 19.9 mmol, 2.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | carbon monoxide | [C]=O | CO
solvent | anisole | 15 mL | C1(=CC=CC=C1)OC | C7H8O
catalyst | Tetrakis(triphenylphosphine)palladium | 0.13 mmol, 0.15 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | anisole | 15 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | toluene water | 120 mL | C1(=CC=CC=C1)C.O
product | 4,4′-dibromo-2,2′-difluoro-benzophenone | 1.17 g, 47% | BrC1=CC(=C(C(=O)C2=C(C=C(C=C2)Br)F)C=C1)F | C13H6Br2F2O
